US07402684B2
(R)-2-[4-(Benzooxazol-2-yloxy)-phenoxymethyl]-pyrrolidine Hydrogen chloride salt:
To a 20 mL vial which contained a solution of (R)-2-[4-(benzooxazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (40 mg, 0.1 mmol) in dioxane (0.5 mL) was added HCl (4 N in dioxane 2 mL) at 0° C. The mixture was allowed to warm to rt and stir at rt for 16 h. Removal of the solvent yielded the title product (28 mg, 80%); LCMS; 75% ESI+, Calcd: 310.4. Found m/z: 311.4 (M+1). 1H NMR (400 MHz, DMSO-d6); δ 1.68-1.75 (m, 1H), 1.85-2.03 (m, 2H), 2.06-2.13 (m, 1H), 3.14-3.26 (m, 2H), 3.79-3.89 (m, 1H), 3.98-4.03 (m, 1H), 4.12 (dd, J/=10.4 Hz, J2=3.6 Hz, 1H), 6.69-6.72 (m, 2H), 6.78-6.83 (m, 2H), 7.05-7.16 (m, 3H), 7.25-7.30 (m, 1H).

reactant | (R)-2-[4-(benzooxazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.1 mmol, 40 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OC=1OC2=C(N1)C=CC=C2 | C23H26N2O5
reactant | HCl | 4 N, 2 mL | Cl | ClH
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (R)-2-[4-(Benzooxazol-2-yloxy)-phenoxymethyl]-pyrrolidine Hydrogen chloride salt | 28 mg, 80% | Cl.O1C(=NC2=C1C=CC=C2)OC2=CC=C(OC[C@@H]1NCCC1)C=C2 | InChI=1S/C18H18N2O3.ClH/c1-2-6-17-16(5-1)20-18(23-17)22-15-9-7-14(8-10-15)21-12-13-4-3-11-19-13;/h1-2,5-10,13,19H,3-4,11-12H2;1H/t13-;/m1./s1
